US06894050B2
Preparation of Intermediate 3-[(6-Chloro-pyrazin-2-ylamino)-methyl]-benzonitrile (I-4n):
A mixture of 2,6-dichloropyrazine (75 mg, 0.503 mmol), 3-aminomethyl-benzonitrile (73 mg, 0.553 mmol), sodium t-butoxide (58 mg, 0.604 mmol), BINAP (12.5 mg, 0.020 mmol), and Pd2(dba)3 (9.2 mg, 0.010 mmol) in toluene (2 mL) was heated at reflux under nitrogen for 10 h. The solution was cooled to room temperature and filtered through a celite pad. The celite pad was washed with ethyl acetate several times. The combined filtrate was concentrated in vacuo to give the crude title compound. The product was purified by chromatography (silica, 5% MeOH/dichlormethane) to give 37.6 mg 3-[(6-chloro-pyrazin-2-ylamino)-methyl]-benzonitrile I-4n.

reactant | 2,6-dichloropyrazine | 0.503 mmol, 75 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 3-aminomethyl-benzonitrile | 0.553 mmol, 73 mg | NCC=1C=C(C#N)C=CC1 | C8H8N2
reactant | sodium t-butoxide | 0.604 mmol, 58 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.020 mmol, 12.5 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.010 mmol, 9.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-[(6-chloro-pyrazin-2-ylamino)-methyl]-benzonitrile | 37.6 mg | ClC1=CN=CC(=N1)NCC=1C=C(C#N)C=CC1 | C12H9ClN4
